US06720338B2
methyl 4-(1,8,8-trimethyl-2,4-dioxo-3-azabicyclo(3.2.1)oct-3-yl)benzoate
The desired product was prepared by substituting methyl 4-aminobenzoate and (+/−)-camphoric anhydride for ethyl 4-aminobenzoate and 3,3-dimethylglutaric anhydride, respectively, in Example 119A. MS (DCI) m/e 333 (M+NH4)+.

reactant | (+/−)-camphoric anhydride | C1(C2(C)C(C)(C)C(C(=O)O1)CC2)=O | C10H14O3
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | 3,3-dimethylglutaric anhydride | CC1(CC(=O)OC(C1)=O)C | C7H10O3
product | methyl 4-(1,8,8-trimethyl-2,4-dioxo-3-azabicyclo(3.2.1)oct-3-yl)benzoate | CC12C(N(C(C(CC1)C2(C)C)=O)C2=CC=C(C(=O)OC)C=C2)=O | C18H21NO4
